US04595754
A. N-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylidene)-1-propanamine
A 500 ml round bottom flask was charged with 20.32 g (0.103 mol) of 3,3-dimethyl-1,5-dioxazpiro[5.5]undecan-9-one (also known as 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal, from Aldrich Chemical Company, Milwaukee, Wis.), 21.6 g (0.365 mol) of n-propylamine (Eastman Chemical Company, Rochester, N.Y.), 0.01 g of p-toluenesulfonic acid and 100 ml of toluene. The reaction mixture was refluxed for 24 hours with a water separator charged with 16 g of 3-A molecular sieves. The volatiles were removed in vacuo and the residue was held for further synthetic modifications as described below.

reactant | 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal | CC1(COC2(CCC(=O)CC2)OC1)C | C11H18O3
reactant | n-propylamine | 0.365 mol, 21.6 g | C(CC)N | C3H9N
reactant | p-toluenesulfonic acid | 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylidene)-1-propanamine | CC1(COC2(OC1)CCC(CC2)=NCCC)C | C14H25NO2
